US06927221B2
3-Bromo-8-(1-ethylpropyl)-2,5-dimethyl-7,8-dihydro-6H-pyrazolo[1,5-a]pyrrolo[3,2-e]pyrimidine
Phosphorus oxychloride (3.3 mL) was added to a solution of 3-bromo-6-(2-hydroxyethyl)-2,5-dimethylpyrazolo[1,5-a]pyrimidin-7-ol (1.0 mg, 3.50 mmol) in N,N-dimethyaniline (5 mL), followed by stirring at 120° C. for 20 minutes. After cooling to room temperature, the mixture was added dropwise slowly into ice-water under vigorously stirring. Then, the mixture was stirred for two hours while raising a temperature gradually to room temperature, followed by diluting with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated. 3-Aminopentane (10 mL) was added to a solution of the residue in acetonitrile (30 mL), followed by heating under reflux for three hours. The mixture was diluted with ethylacetate, and the organic layer was washed with water and brine, dried over anhydrous magnesium sulfate and evaporated. The resulting crystals were collected by filtration, to give the title compound (700 mg) as white crystals.

reactant | Phosphorus oxychloride | 3.3 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-bromo-6-(2-hydroxyethyl)-2,5-dimethylpyrazolo[1,5-a]pyrimidin-7-ol | 3.50 mmol, 1.0 mg | BrC=1C(=NN2C1N=C(C(=C2O)CCO)C)C | C10H12BrN3O2
reactant | N,N-dimethyaniline | 5 mL | CN(C1=CC=CC=C1)C | C8H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Bromo-8-(1-ethylpropyl)-2,5-dimethyl-7,8-dihydro-6H-pyrazolo[1,5-a]pyrrolo[3,2-e]pyrimidine | 700 mg | BrC=1C(=NN2C1N=C(C1=C2N(CC1)C(CC)CC)C)C | C15H21BrN4
